US07605158B2
5-[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}-benzofuran-3-yl)amino]-5-oxopentanoic acid
Methyl 5-[(2-{[(5-chloropyridin-2-yl)amino]-carbonyl}benzofuran-3-yl)amino]-5-oxopentanoate (4.44 g) obtained in Example 9(1) is suspended in methanol (50 ml), and thereto is added 2N aqueous sodium hydroxide solution (30 ml) under ice-cooling followed by stirring at room temperature for 2 hours. After evaporating methanol under reduced pressure, the residue is diluted with water and washed with diethyl ether. The separated aqueous layer is acidified with 10% hydrochloric acid under ice-cooling, and the precipitates are collected by filtration. The resulting solid materials are washed successively with water, ethanol and diethyl ether, and dried to give the title compound (3.99 g). ESI-MS M/Z:400/402[M−H]−

reactant | Methyl 5-[(2-{[(5-chloropyridin-2-yl)amino]-carbonyl}benzofuran-3-yl)amino]-5-oxopentanoate | 4.44 g | ClC=1C=CC(=NC1)NC(=O)C=1OC2=C(C1NC(CCCC(=O)OC)=O)C=CC=C2 | C20H18ClN3O5
reactant | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}-benzofuran-3-yl)amino]-5-oxopentanoic acid | 3.99 g | ClC=1C=CC(=NC1)NC(=O)C=1OC2=C(C1NC(CCCC(=O)O)=O)C=CC=C2 | C19H16ClN3O5
